US07279481B2
N-(2-(Methoxy)-3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)acetamide dihydrochloride (E131)
The title compound was prepared in 42% yield according to the general procedure for the preparation of amides (Method B) starting from starting from 2-(methoxy)-3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}aniline and acetyl chloride.

reactant | 2-(methoxy)-3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}aniline | COC1=C(N)C=CC=C1CCN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C | C23H28N4O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-(2-(Methoxy)-3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)acetamide dihydrochloride | 42% yield | Cl.Cl.COC1=C(C=CC=C1CCN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C)NC(C)=O | InChI=1S/C25H30N4O2.2ClH/c1-18-10-11-21-22(26-18)7-5-9-24(21)29-16-14-28(15-17-29)13-12-20-6-4-8-23(25(20)31-3)27-19(2)30;;/h4-11H,12-17H2,1-3H3,(H,27,30);2*1H
